US07902252B2
2.35. Synthesis of methyl 4-(2,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.50 g, 2.8 mmol) was reacted with 2,4-difluorobenzylmagnesium chloride (0.25 M in diethyl ether, 28 mL, 7 mmol) according to General Procedure 3. The resulting exo-olefin ((E)-methyl 4-(2,4-difluorobenzylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate) was then converted to the title compound by hydrogenation according to General Procedure 6 (with 5% Pd/C). The crude product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-20% EtOAc/heptane to afford the title compound: 0.062 g. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.05-2.15 (m, 1H), 2.55-2.65 (m, 1H), 2.65-2.75 (m, 2H), 2.79 (d, J=7.4, 2H), 3.25-3.35 (m, 1H), 3.81 (s, 3H), 6.38 (d, J=1.4 Hz, 1H), 6.78-6.90 (m, 2H), 7.10-7.15 (m, 1H).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.8 mmol, 0.50 g | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | 2,4-difluorobenzylmagnesium chloride | 7 mmol, 0.25 M, 28 mL | FC1=C(C[Mg]Cl)C=CC(=C1)F
catalyst | Pd/C | [Pd] | Pd
product | methyl 4-(2,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC1=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC(=C1)F | C16H15F2NO2
